US04041165
A mixture of 5.3 g (0.025 mole) of 2,7-dihydroxyfluoren-9-one in 100 ml of toluene, 16.2 g (0.088 mole) of 2-piperidinoethylchloride hydrochloride and 5.0 g (0.125 mole) of sodium hydroxide in 40 ml of water is heated at reflux for 15 hours with stirring. Upon cooling, the layers are separated. The toluene layer is washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate is acidified to Congo Red with ethereal HCl, and the resulting precipitate is collected, washed with ether and recrystallized from butanone-methanol to give 2,7-bis(2-piperidinoethoxy)fluoren-9-one dihydrochloride, M.P. 304°-306° C.

reactant | 2,7-dihydroxyfluoren-9-one | 0.025 mole, 5.3 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | 2-piperidinoethylchloride hydrochloride | 0.088 mole, 16.2 g | Cl.N1(CCCCC1)CCCl
reactant | sodium hydroxide | 0.125 mole, 5.0 g | [OH-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | 2,7-bis(2-piperidinoethoxy)fluoren-9-one dihydrochloride | Cl.Cl.N1(CCCCC1)CCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCN1CCCCC1)=O | InChI=1S/C27H34N2O3.2ClH/c30-27-25-19-21(31-17-15-28-11-3-1-4-12-28)7-9-23(25)24-10-8-22(20-26(24)27)32-18-16-29-13-5-2-6-14-29;;/h7-10,19-20H,1-6,11-18H2;2*1H
